US05220021
[3-Phenyl-5(4H)-isoxazolylidene]bisphosphonic acid monopotassium salt (III)
The free acid, [3-phenyl-5(4H)-isoxazolylidene]bisphosphonic acid, is then dissolved in ethanol (15 ml), treated with a solution of potassium hydroxide (560 mg, 10 mmol) in ethanol (10 ml), the precipitate collected and washed with ether to give the title compound, mp dec>250°; MS (m/e) 422, 384, 346 and 308; IR (mineral oil mull) 3054, 3029, 2317, 1609, 1572, 1497, 1206 and 1068 cm-1 ; NMR (D2O) 3.94 δ.

reactant | [3-phenyl-5(4H)-isoxazolylidene]bisphosphonic acid | C1(=CC=CC=C1)C1=NOC(C1)(P(O)(O)=O)P(O)(O)=O | C9H11NO7P2
reactant | potassium hydroxide | 10 mmol, 560 mg | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | [3-Phenyl-5(4H)-isoxazolylidene]bisphosphonic acid monopotassium salt | [K+].C1(=CC=CC=C1)C1=NOC(C1)(P(O)(O)=O)P([O-])(O)=O | InChI=1S/C9H11NO7P2.K/c11-18(12,13)9(19(14,15)16)6-8(10-17-9)7-4-2-1-3-5-7;/h1-5H,6H2,(H2,11,12,13)(H2,14,15,16);/q;+1/p-1
